US08022062B2
3-tert-Butoxycarbonyl-6-(4-carboxy-3-fluorobenzylthio)-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Heat a stirred solution of 3-tert-butoxycarbonyl-7-chloro-6-(3-fluoro-4-methoxycarbonylbenzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (3.56 g, 7.44 mmol) in THF (50 mL) and water (40 mL) overnight at 65° C. in the presence of potassium hydroxide (8.30 g, 148.77 mmol). Cool the mixture to 0° C., add slowly a 1N solution of hydrochloric acid until pH 5. Extract three times with EtOAc, dry over anhydrous Na2SO4 and concentrate in vacuo to provide the desired intermediate as a white solid (3.5 g, 99%).

reactant | 3-tert-butoxycarbonyl-7-chloro-6-(3-fluoro-4-methoxycarbonylbenzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 7.44 mmol, 3.56 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCC2=CC(=C(C=C2)C(=O)OC)F | C24H27ClFNO4S
reactant | potassium hydroxide | 148.77 mmol, 8.30 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | 40 mL | O | H2O
product | 3-tert-Butoxycarbonyl-6-(4-carboxy-3-fluorobenzylthio)-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 3.5 g, 99% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCC2=CC(=C(C=C2)C(=O)O)F | C23H25ClFNO4S
